US07786165B2
4′-(2-ethoxyethoxy)-6-isopropoxybiphenyl-3-carbaldehyde
A solution of [4′-(2-ethoxyethoxy)-6-isopropoxybiphenyl-3-yl]methanol (0.90 g, 2.72 mmol) and manganese dioxide (2.7 g, 31.1 mmol) in tetrahydrofuran (40 mL) was stirred at room temperature for 2 hr. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:19-3:7) to give the title compound (725 mg) as colorless needle crystals. yield 81%.

reactant | [4′-(2-ethoxyethoxy)-6-isopropoxybiphenyl-3-yl]methanol | 2.72 mmol, 0.90 g | C(C)OCCOC1=CC=C(C=C1)C1=CC(=CC=C1OC(C)C)CO | C20H26O4
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 31.1 mmol, 2.7 g | [O-2].[O-2].[Mn+4]
product | 4′-(2-ethoxyethoxy)-6-isopropoxybiphenyl-3-carbaldehyde | 725 mg, yield 81% | C(C)OCCOC1=CC=C(C=C1)C1=CC(=CC=C1OC(C)C)C=O | C20H24O4
